US06337390B1
C 1-Amino-2,2-bis(docosyloxymethyl)propane
1-Azido-2,2-bis(docosyloxymethyl)propane (12.8 g; 16.8 mmol) and palladium hydroxide on carbon (6.0 g) in tetrahydrofuran (100 ml) was stirred under the hydrogen atmosphere at 50° C. for 3 h. The reaction solution was filtered through celite, and the filtrate was evaporated to dryness in vacuo. The residue was purified by silica gel column chromatography (60 g of gel, chloroform/methanol, 10:1) to obtain the title compound (8 g, 65%) as white powder.

reactant | 1-Azido-2,2-bis(docosyloxymethyl)propane | 16.8 mmol, 12.8 g | N(=[N+]=[N-])CC(C)(COCCCCCCCCCCCCCCCCCCCCCC)COCCCCCCCCCCCCCCCCCCCCCC | C49H99N3O2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide on carbon | 6.0 g | [OH-].[OH-].[Pd+2]
product | 1-Amino-2,2-bis(docosyloxymethyl)propane | 8 g, 65% | NCC(C)(COCCCCCCCCCCCCCCCCCCCCCC)COCCCCCCCCCCCCCCCCCCCCCC | C49H101NO2
